US04740228
4.4 g (0.05 mole) of morpholine are dissolved in 50 ml of methylene chloride, 20 ml of a 20% aqueous sodium hydroxide solution are added to it, and the mixture is cooled to a temperature below -10° C. with salted ice. 10.5 g (0.05 mole) of 2-cyano-2-ethyl-2-phenylacetyl chloride are added to the mixture in portions, under vigorous stirring. The reaction mixture is stirred at 0° C. for one hour, thereafter the phases are separated from each other, the organic phase is washed twice with dilute aqueous hydrochloric acid, dried over a mixture of anhydrous magnesium sulfate and potassium carbonate, filtered, and the solvent is evaporated. 10.3 g (81%) of 2-cyano-2-ethyl-2-phenylacetic acid morpholide are obtained; m.p.: 87°-89.5° C.

reactant | morpholine | 0.05 mole, 4.4 g | N1CCOCC1 | C4H9NO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2-cyano-2-ethyl-2-phenylacetyl chloride | 0.05 mole, 10.5 g | C(#N)C(C(=O)Cl)(C1=CC=CC=C1)CC | C11H10ClNO
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-cyano-2-ethyl-2-phenylacetic acid morpholide | 10.3 g, 81% | C(#N)C(C(=O)N1CCOCC1)(C1=CC=CC=C1)CC | C15H18N2O2
